US06380387B1
N-[(2-bromo-6-methylphenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine was prepared from 4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester and 2-bromo-6-methylbenzoic acid using the general procedures described in example 7 and was obtained as a white solid: mp 240-242° C. FAB-HRMS m/e calcd for C24H24BrN3O5 (M+H) 514.0978, found 514.0965.

reactant | 4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)=O | C17H21N3O4
reactant | 2-bromo-6-methylbenzoic acid | BrC1=C(C(=O)O)C(=CC=C1)C | C8H7BrO2
product | N-[(2-bromo-6-methylphenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine | BrC1=C(C(=CC=C1)C)C(=O)N[C@@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)C(=O)O | C24H24BrN3O5
